US04507317
To a stirred solution of 6,7-dihydro-5H-dibenzo[a,c]cycloheptene-4-methanol (0.95 g, 0.043 mole) and 1 ml of dry triethylamine in 15 ml of dry diethyl ether was added 3 ml of a solution of trans-3-(2,2-difluoroethenyl)-2,2-dimethylcyclopropanecarbonyl chloride in dry diethyl ether (1.42 mmole/ml). The resultant mixture was stirred at room temperature for approximately 18 hours, then poured into 50 ml of water. The organic phase was separated and washed first with an aqueous 5% sodium bicarbonate solution and then with water. The organic solution was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to leave an oil. This oil was purified by column chromatography on silica gel, eluted with ethyl acetate:hexanes (5:95), to yield 0.83 g of (6,7-dihydro-5H-dibenzo[a,c]cycloheptene-4-yl)methyl trans-3-(2,2-difluoroethenyl)-2,2-dimethylcyclopropanecarboxylate as an oil.

reactant | 6,7-dihydro-5H-dibenzo[a,c]cycloheptene-4-methanol | 0.043 mole, 0.95 g | C1=CC=C(C2=C1C1=C(CCC2)C=CC=C1)CO | C16H16O
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | trans-3-(2,2-difluoroethenyl)-2,2-dimethylcyclopropanecarbonyl chloride | FC(=C[C@@H]1C([C@H]1C(=O)Cl)(C)C)F | C8H9ClF2O
reactant | water | 50 ml | O | H2O
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1.42 mmole/ml | C(C)OCC | C4H10O
product | (6,7-dihydro-5H-dibenzo[a,c]cycloheptene-4-yl)methyl trans-3-(2,2-difluoroethenyl)-2,2-dimethylcyclopropanecarboxylate | 0.83 g | FC(=C[C@@H]1C([C@H]1C(=O)OCC1=CC=CC2=C1CCCC1=C2C=CC=C1)(C)C)F | C24H24F2O2
